US09340549B2
NaHCO3 (1.7 g, 19.4 mmol) and (Boc)2O (2.1 g, 9.7 mmol) were added to a 50 mL round bottom flask containing a solution of (S)-methyl 2-amino-2-phenylacetate (0.8 g, 4.9 mmol) in EtOH (20 mL). The resulting mixture was stirred at ambient temperature for 16 hours. After completion of reaction (monitored by TLC, TLC eluent: 20% EtOAc in hexane), the mixture was filtered and the filtrate concentrated to afford 1.2 g (94.0%) of (R)-methyl 2-((tert-butoxycarbonyl)amino)-2-phenylacetate colorless oil. 1H NMR (400 MHz, CDCl3) δ: 7.36-7.31 (m, 5H), 5.55 (m, 1H), 5.31 (d, J=7.4 Hz, 1H), 3.72 (s, 3H), 1.43 (s, 9H).

reactant | NaHCO3 | 19.4 mmol, 1.7 g | C(=O)(O)[O-].[Na+]
reactant | (Boc)2O | 9.7 mmol, 2.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-methyl 2-amino-2-phenylacetate | 4.9 mmol, 0.8 g | N[C@H](C(=O)OC)C1=CC=CC=C1 | C9H11NO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | hexane | CCCCCC | C6H14
product | (R)-methyl 2-((tert-butoxycarbonyl)amino)-2-phenylacetate | 1.2 g, 94.0% | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)C1=CC=CC=C1 | C14H19NO4
